US07538112B2
A mixture of 4-bromo-10-(benzyloxy)-2-(3-chloro-4-fluorobenzyl)-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (1.00 g, 1.83 mmol), tributyl(1-ethoxyvinyl)tin (0.73 g, 2.01 mmol), and trans-dichlorobis(triphenylphosphine)palladium (II) (64 mg, 92 μmol) in dioxane (10 mL) was purged with nitrogen for 15 minutes. The reaction mixture was heated in a sealed tube at 100° C. overnight. The product mixture was filtered through a pad of Celite, and the filtrate concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a 1:1 mixture of ethyl acetate in chloroform. Collecting and concentration of appropriate fractions provided the intermediate ethoxyvinyl ether as off white solid. A solution of the ethoxyvinyl ether (0.70 g, 1.30 mmol) in acetone at room temperature was treated with hydrochloric acid (2 mL, 1 M) and stirred at the same temperature for 30 minutes. The resultant solution was concentrated under vacuum to provide the title ketone.

reactant | 4-bromo-10-(benzyloxy)-2-(3-chloro-4-fluorobenzyl)-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 1.83 mmol, 1.00 g | BrC1=NN(C(C2=C1N1C(=C2OCC2=CC=CC=C2)C(N(CC1)C)=O)=O)CC1=CC(=C(C=C1)F)Cl | C24H19BrClFN4O3
reactant | tributyl(1-ethoxyvinyl)tin | 2.01 mmol, 0.73 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 92 μmol, 64 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethoxyvinyl ether | C(C)OC=COC=COCC | C8H14O3
